US06562807B2
(RS)-3-[4-[1-(4-tert-Butylphenyl)-3-(4-trifluoromethoxyphenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic Acid
A solution of 3-{4-[1-(4-tert-butylphenyl)-3-(4-trifluoromethoxyphenyl)ureidomethyl]benzoyl-amino}-2-hydroxypropionic acid ethyl ester was stirred in absolute ethanol (20 mL) and 1 M sodium hydroxide (6 mL) was added. Stirring was continued for 17 hours and the solution was acidified with aqueous hydrochloric acid. The solvent was decanted and the remaining oil was dissolved in acetonitrile (20 mL) by heating. Water (20 mL) was added dropwise under vigorous stirring and the mixture was allowed to cool to room temperature. The precipitate was filtered off, washed with water and dried to afford 0.51 g (43%) of the title compound as a solid.

reactant | 3-{4-[1-(4-tert-butylphenyl)-3-(4-trifluoromethoxyphenyl)ureidomethyl]benzoyl-amino}-2-hydroxypropionic acid ethyl ester | C(C)OC(C(CNC(C1=CC=C(C=C1)C(C1=CC=C(C=C1)C(C)(C)C)NC(=O)NC1=CC=C(C=C1)OC(F)(F)F)=O)O)=O | C31H34F3N3O6
reactant | sodium hydroxide | 1 M, 6 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (RS)-3-[4-[1-(4-tert-Butylphenyl)-3-(4-trifluoromethoxyphenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic Acid | 0.51 g, 43% | C(C)(C)(C)C1=CC=C(C=C1)C(C1=CC=C(C(=O)NCC(C(=O)O)O)C=C1)NC(=O)NC1=CC=C(C=C1)OC(F)(F)F | C29H30F3N3O6
